US09227951B2
Step 1: benzyl 2-(1-(tert-butoxycarbonylamino)ethyl)thiazole-5-carboxylate
To a solution of 2-(1-(tert-butoxycarbonylamino)ethyl)thiazole-5-carboxylic acid (0.14 g, 0.5 mmol) in DMSO (1 mL) was added KOH (0.031 g, 0.55 mmol). The mixture was stirred at room temperature until the full dissolution of KOH was observed. Benzyl bromide (0.06 mL, 0.53 mmol) was added and the reaction solution was stirred at room temperature overnight. The solution was partitioned between EtOAc and saturated aqueous NaHCO3. The organic layer was dried over anhydrous MgSO4, concentrated and purified by column chromatography to afford a colorless oil (0.133 g, 73%). LC-MS: (FA) ES+ 363.

reactant | 2-(1-(tert-butoxycarbonylamino)ethyl)thiazole-5-carboxylic acid | 0.5 mmol, 0.14 g | C(C)(C)(C)OC(=O)NC(C)C=1SC(=CN1)C(=O)O | C11H16N2O4S
reactant | KOH | 0.55 mmol, 0.031 g | [OH-].[K+]
reactant | Benzyl bromide | 0.53 mmol, 0.06 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | benzyl 2-(1-(tert-butoxycarbonylamino)ethyl)thiazole-5-carboxylate | 0.133 g, 73% | C(C)(C)(C)OC(=O)NC(C)C=1SC(=CN1)C(=O)OCC1=CC=CC=C1 | C18H22N2O4S
